US05880130
Using an analogous reaction procedure to that described in Example 6, 4-chloro-6-(3'-methylanilino)pyrimidine (1.0 g) was reacted with ethyl 4-aminophenoxyacetate (1.0 g). The product so obtained was chromatographed on silica to give 4-[4'-(ethoxycarbonylmethoxy)anilino]6-(3'-methylanilino)pyrimidine (0.57 g).

reactant | 4-chloro-6-(3'-methylanilino)pyrimidine | 1.0 g | ClC1=NC=NC(=C1)NC1=CC(=CC=C1)C | C11H10ClN3
reactant | ethyl 4-aminophenoxyacetate | 1.0 g | NC1=CC=C(OCC(=O)OCC)C=C1 | C10H13NO3
product | 4-[4'-(ethoxycarbonylmethoxy)anilino]6-(3'-methylanilino)pyrimidine | 0.57 g | C(C)OC(=O)COC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C21H22N4O3
